*Title: Circuit_t_1

*Descrição do circuito

*Fontes de alimentação
Va 1 0 5.23936486299
Id 7 5 1.03899051042m
*Para ver a corrente em R6
Vo 6 8 0
*2 elementos controlados
H1 4 7 Vo 8.25247516035K
G1 5 3 2 4 7.31630468385m

*Resistências
R1 1 2 1.04309563061K
R2 3 2 2.01744623407K
R3 2 4 3.13691375104K
R4 4 0 4.15429988186K
R5 4 5 3.07915362723K
R6 0 6 2.02592738504K
R7 8 7 1.04226655522K

*Comandos
.control
op
print all
.endc

